US06590127B1
α-asarone (trans-2,4,5-trimethoxyphenyl-1-propene) is well known for its several pharmacological activities including hypolipideamic and antiplatelet activity but is generally present in traces with β and γ-asarone in various plant species including A. calamus (Patra, A. and Mitra, A. K., J. Nat. Prod., 44, 668-669 (1981); Dung, N. X.; Moi, L. D.; Nam, V. V.; Cu, L. D. and Leclercq, P. A., J. of Ess. Oil Res., 7 (1), 111-112 (1995) and Parmar, V. S.; Jain, S. C.; Bisht, K. S.; Jain, R.; Taneja, P.; Jha, A.; Tyagi, O. D.; Prasad, A. K.; Wengel, J.; Olsen, C. E.; Boll, P. M., Phytochemistry, 46 (4), 597-673 (1997)). Separation of less abundant α-asarone is particularly difficult via column chromatography of asarones rich essential oil. Although, few methods are found in literature for the synthesis of α-asarone including alkaline isomerisation of γ-asarone (2,4,5-trimethoxyallylbenzene), however, a little amount of toxic β-asarone is always present with α-asarone during alkaline isomerization (Devgan, O. N. and Bokadia, M. M., Aust. J. Chem., 21, 3001-3003 (1968)). Thus, the reported synthetic methods are not free from drawbacks such as multisteps approach, expensive reagents and overall poor yield with contamination of its isomers. In view of these problems two factors are pivotal for the synthesis of α-asarone, first to achieve highest selectivity for the formation of α-isomer without any presence of other isomers and secondly, search for simple, economical and efficient methods to obtain α-asarone which can be easily achieved by dehydrogenation of 2,4,5-trimethoxyphenylpropane with the help of dehydrogenating reagents such as 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ). Among dehydrogenating agents namely, manganese dioxide, p-chloranil, selenium dioxide, Pd/C, selenium and sulphur, DDQ is invented as a single reagent of choice towards formation of α-asarone in a single step by just varying reaction time, temperature, solvent and amount of reagent (DDQ) with or without a solid support such as silica gel, alumina and the like in a mono or biphasic system. In anhydrous solvents namely, alcohol such as methanol, ethanol and the like; aliphatic and aromatic hydrocarbons such as hexane, benzene, toluene and the like; ether such as tetrahydrofuran, dioxane and the like, the reaction between 2,4,5-trimethoxyphenylpropane and varying amount of DDQ, preferably ranging from 1.0 to 1.1 moles, furnishes the corresponding dehydrogenated product i.e. trans-asarone (α-asarone) in 41-44% yield and unreacted starting material (i.e. 2,4,5-trimethoxyphenylpropane) along with yellow coloured compound as a side product (4-6%) while 2,4,5-trimethoxyphenylpropane and varying amount of DDQ, preferably ranging from 1.1 to 1.3 moles, furnishes α-asarone (48-51%) as well as above yellow coloured compound (9-11%) but without any starting material (Example II). It is interesting to note that the addition of a catalytic amount of solid support such celite, silica gel, alumina, resin and the like to the above mixtures of 2,4,5-trimethoxyphenylpropane and DDQ (1.1 to 1.3 moles) dramatically accelerates the rate of dehydrogenation as well as increases the yield of α-asarone (67-72%) (Example III). On the basis of IR, NMR, Mass spectral data, yellow solid is found to be trans-2,4,5-trimethoxycinnamaldehyde which was further confirmed by comparing the mixed m.p. (139-140° C.) of standard trans-2,4,5-trimethoxycinnamaldehyde prepared by reaction of α-asarone (trans-asarone, procured from Sigma Chemical Ltd.) with DDQ in dioxane. Further, trans-2,4,5-trimethoxycinnamaldehyde has appeared as a rare phenylpropanoid present in Caesulia axillaries and Alpinia flabella (0.000015%) in traces (Kulkarni, M. M.; Sohoni, J.; Rojatkar, S. R. and Nagasampagi, B. A., Ind. J. Chem. Sec. B 25B, 981-982 (1986) and Kikuzaki, H.; Tesaki, S.; Yonemori, S. and Nakatani, N. Phytochemistry, 56(1), 109-114 (2001), thus, preparation of trans-2,4,5-trimethoxycinnamaldehyde in sufficient quantity opens new vistas for the evaluation of its various applications known for structurally similar cinnamaldehyde derivatives (Tomoshi, K. and Makoto, F., JP Pat. No. 58055414A2; Saotome, K., JP Pat. No. 58201703A2; Watanabe, T., Komeno, T. and Hatanaka, M., JP Pat. No. 6312916A2 and Castelijns, A. M. C. F., Hogeweg, J. M. and vanNispen, S. P. J. M., U.S. Pat. No. 5,811,588)). After having confirmed the structure of α-asarone and trans-2,4,5-trimethoxycinnamaldehyde, our attention was focused towards exclusive formation of α-asarone in high yield without any starting material and yellow side product (i.e. 2,4,5-trimethoxycinnamaldehyde).

reactant | 2,4,5-trimethoxyphenylpropane | COC1=C(C=C(C(=C1)OC)OC)CCC | C12H18O3
reactant | DDQ | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
product | α-asarone | 48-51% | C\C=C\C1=C(OC)C=C(OC)C(OC)=C1 | C12H16O3
